US05068231
N-(1,1-Dimethylethyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred slurry of 6.2 g (0.02 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate in 60 ml of tetrahydrofuran was treated with 2 g (0.022 mole) of 1,1-dimethylethyl isocyanate and after 0.5 hr 5 ml of triethylamine was added. The reaction slurry quickly turned to a pale yellow solution which was stirred for 18 hr, then treated with 10 ml of water. After 20 min, the tetrahydrofuran portion was separated, dried over magnesium sulfate and concentrated on a rotary evaporator. The solid residue was recrystallized from isopropyl ether to yield 5 g (79.0%) of fine white crystals, m.p. 145°-146° C.

reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C1=CC=C(OC2CNC2)C=C1)(F)F
reactant | 1,1-dimethylethyl isocyanate | 0.022 mole, 2 g | CC(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-(1,1-Dimethylethyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 5 g, 79.0% | CC(C)(C)NC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F | C15H19F3N2O2
